US07125589B1
Third Step: Preparation of 2,5-difluoro-(4-(trans-4-propylcyclohexyl)cyclohexyl)benzene (No. 1488)
A mixture of 2,5-difluoro(4-(trans-4-propylcyclohexyl)cyclohexenyl)benzene (0.84 mmol), ethyl acetate (30 ml), and 5% palladium carbon (0.013 g) is stirred under an atmosphere of hydrogen. After ceasing the absorption of hydrogen, 5% palladium carbon is filtered off from the reaction mixture. The filtrate is concentrated under reduced pressure and purified by silica-gel chromatography, and further recrystallized to give the titled compound.

reactant | 2,5-difluoro(4-(trans-4-propylcyclohexyl)cyclohexenyl)benzene | 0.84 mmol | FC1=C(C=C(C=C1)F)C1=CCC(CC1)[C@@H]1CC[C@H](CC1)CCC | C21H28F2
catalyst | palladium carbon | 0.013 g | [C].[Pd]
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 2,5-difluoro-(4-(trans-4-propylcyclohexyl)cyclohexyl)benzene | FC1=C(C=C(C=C1)F)C1CCC(CC1)[C@@H]1CC[C@H](CC1)CCC | C21H30F2
